data/specific_train_final.csv
"[H:20][O:21][O].CCC12C=CC(C(C1O)OO2)O[O:10]>>[H:20][O:10]OC1C=CC2(C(C1OO2)O)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](C)CCO.[O:20][O]>>C[C:10](C)(CCO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:8][CH:7]([CH3:9])[CH:6]([CH2:10][OH:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:8][CH:7]([CH3:9])[CH:6]([CH2:10][OH:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CC(CCOC(=O)C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CC(CCOC(=O)C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"[H:12][C:10]([CH:13]([CH3:14])[OH:15])([O:11])[O:9][CH2:8][CH2:7][CH2:6][CH3:5].[H:4][O:3].[O:1][O:2]>>[H:4][O:3][H:12].[CH3:5][CH2:6][CH2:7][CH2:8][O:9][C:10](=[O:11])[CH:13]([CH3:14])[OH:15].[O:1][O:2] 3-3,12; 10,12-3,12; 10,12-10,11; 11-10,11",Room Temperature,Termination,abstraction
"[CH3:5][C:4]1=[CH:6][CH:7]=[C:8]([C:2](=[CH:3]1)[CH3:1])[OH:9].[OH:10]>>[CH3:5][C:4]1=[CH:6][CH:7]([C:8]([C:2](=[CH:3]1)[CH3:1])[OH:9])[OH:10] 10-10,7; 7,8-10,7; 7,8-8",Room Temperature,Propagation,addition
"[H:12][C:11]([H:13])([CH:9]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8])[O:10])[O:14][O:15][H:16]>>[H:12][C:11]([O:14][O:15][H:16])[H:13].[CH3:1][C:2]([CH2:3][O:4][N+:5](=[O:7])[O-:6])([CH:9]=[O:10])[OH:8] 10-9,10;11,9-9,10;9,11-11",Room Temperature,Propagation,retroaddition
[CH3:8][CH2:7][CH:5]([CH3:6])[CH2:4][CH:2]([CH3:3])[O:1].[N:10](=[O:11])[O:9]>>[CH3:8][CH2:7][CH:5]([CH3:6])[CH2:4][CH:2]([CH3:3])[O:1].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"CCC(CC=O)O[O:20].[N:10]=O>>CCC(CC=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CCC(C)(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:13][O:14][O:15].[CH2:1]=[C:2]([CH2:8][O:9][N+:10](=[O:12])[O-:11])[CH:3]([CH+:6][OH:7])[O:4][O:5]>>[H:13][O:5][O:4][CH:3]([CH+:6][OH:7])[C:2](=[CH2:1])[CH2:8][O:9][N+:10](=[O:12])[O-:11].[O:14][O:15] 13,14-14;13,14-5,13;5-5,13",Room Temperature,Propagation,abstraction
"CC1=C(C=CC=C1)C(C)[O:20].[N+:10](=O)[O-]>>CC1=C(C=CC=C1)C(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(CO[O:20])O.[N+](=O)([O-])[O:10]>>CCC(C)(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)/C=C\C1C(O1)[C:10]=O.[O:20][O]>>CCC(=O)/C=C\C1C(O1)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C(C[O:20][O:21]N=O)O[N+](=O)[O-])O>>CC(C)(C(C[O:20])O[N+](=O)[O-])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C=C(C=C1)CO[O:20])C.[N+](=O)([O-])[O:10]>>CC1=C(C=C(C=C1)CO[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(OC(=O)C)O[O:20].[N:10]=O>>CCCC(OC(=O)C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:8][C:7]1([CH:4]2[CH2:5][CH:6]1[C:10]([CH:2]([CH2:3]2)[O:1])([CH3:12])[OH:11])[CH3:9].[N:14](=[O:13])[O:15]>>[CH3:8][C:7]1([CH:4]2[CH2:5][CH:6]1[C:10]([CH:2]([CH2:3]2)[O:1])([CH3:12])[OH:11])[CH3:9].[N+:14](=[O:13])[O-:15] 14-15,Room Temperature,Propagation,ha resonance
"CC(CO)CO[O:20].[N:10]=O>>CC(CO)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1[CH2:14][CH2:13][CH:9]([CH2:8][CH:3]1[O:4][N+:5](=[O:7])[O-:6])[C:10](=[CH2:12])[CH3:11].[O:15][O:16]>>[CH3:11][C:10](=[CH2:12])[CH:9]1[CH2:13][CH2:14][C:2]([CH:3]([CH2:8]1)[O:4][N+:5](=[O:7])[O-:6])([CH3:1])[O:15][O:16] 2-2,15; 15-15,2",Room Temperature,Termination,recombine
[CH3:1][C:2]([CH3:3])([CH:4]1[CH2:5][CH2:6][C:7](=[CH:8][CH2:9]1)[CH2:10][OH:11])[O:12].[N:13](=[O:14])[O:15]>>[CH3:1][C:2]([CH3:3])([CH:4]1[CH2:5][CH2:6][C:7](=[CH:8][CH2:9]1)[CH2:10][OH:11])[O:12].[N+:13](=[O:14])[O-:15] 13-15,Room Temperature,Propagation,ha resonance
"CC12C=C[C:10](C(C1O)(OO2)C)O.[O:20][O]>>CC12C=C[C:10](C(C1O)(OO2)C)(O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:8][O:9][N:10]=[O:11]>>[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:8].[N:10](=[O:11])[O:9] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)(C(CO)O[O:10])O>>[H:20][O:10]OC(CO)C(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CCC(C1C2)(C[O:21][O:20][O])O[N+](=O)[O-])C.[N+](=O)[O-]>>CC1(C2CCC(C1C2)(C[O:21])O[N+](=O)[O-])C.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)(C)CO[O:20].[N:10]=O>>CCOC(C)(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)C=C(C)C1C(O1)(C)[C:10]=O.[O:20][O]>>CCC(=O)C=C(C)C1C(O1)(C)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
